US07074819B2
To a solution of 4,4,5,5,5-pentafluoropentanol (23.2 g, 130 mmol) in dry dichloromethane (100 ml) were added dropwise at 0° C. triethylamine (27 g, 267 mmol) and methanesulfonylchloride (30 g, 262 mmol), which was then warmed to room temperature over 12 hours. After the reaction was completed, the mixture was poured into ice-water, and extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give a crude product (33.9 g). This crude product thus obtained was then dissolved in acetone (500 ml), potassium thioacetate (18 g, 158 mmol) was added thereto at room temperature, and the resulting mixture was stirred for 12 hours. The precipitate was filtered, and the filtrate was concentrated under reduced pressure to give a crude product. This crude product thus obtained was subjected to silica gel column chromatography (n-hexane:ethyl acetate=20:1) to give 4,4,5,5,5-pentafluoropentylthioacetate (15.8 g, yield 51%).

reactant | 4,4,5,5,5-pentafluoropentanol | 130 mmol, 23.2 g | FC(CCCO)(C(F)(F)F)F | C5H7F5O
reactant | triethylamine | 267 mmol, 27 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonylchloride | 262 mmol, 30 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | potassium thioacetate | 158 mmol, 18 g | C(C)(=S)[O-].[K+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | acetone | 500 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | n-hexane | CCCCCC | C6H14
product | 4,4,5,5,5-pentafluoropentylthioacetate | 15.8 g, yield 51% | FC(CCCOC(C)=S)(C(F)(F)F)F | C7H9F5OS
